US07253180B2
To a solution of 2-aminoethylphosphonic acid (1.26 g, 10.1 mmol) in 2N NaOH (10.1 mL, 20.2 mmol) was added benzyl chloroformate (1.7 mL, 12.1 mmol). After the reaction mixture was stirred for 2 d at room temperature, the mixture was partitioned between Et2O and water. The aqueous phase was acidified with 6N HCl until pH=2. The resulting colorless solid was dissolved in MeOH (75 mL) and treated with Dowex 50WX8-200 (7 g). After the mixture was stirred for 30 minutes, it was filtered and evaporated under reduced pressure to give carbobenzoxyaminoethyl phosphonic acid (2.37 g, 91%) as a colorless solid.

reactant | 2-aminoethylphosphonic acid | 10.1 mmol, 1.26 g | NCCP(O)(O)=O | C2H8NO3P
reactant | NaOH | 20.2 mmol, 2N, 10.1 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 12.1 mmol, 1.7 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | carbobenzoxyaminoethyl phosphonic acid | 2.37 g, 91% | C(=O)(OCC1=CC=CC=C1)NCCP(O)(O)=O | C10H14NO5P
